US07868177B2
A resealable reaction tube was charged with 4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenol (0.12 g, 0.45 mmol), 4-(2-chloropyridin-3-yl)pyrimidin-2-amine (0.09 g, 0.45 mmol), cesium carbonate (0.30 g, 0.91 mmol), and DMSO (2.26 ml, 0.2 M). The reaction vessel was sealed and the mixture stirred at 130° C. for 16 h. The reaction was cooled to RT, diluted with 1 ml DMSO and passed through a PTFE acrodisc filter via syringe. The residue was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA), and the product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure 4-(2-(4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine as a tan solid. MS m/z=436.2 [M+H]+. Calc'd for C25H21N7O: 435.48.

reactant | 4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenol | 0.45 mmol, 0.12 g | CC=1C(=NN(C1)C1=CC=CC=C1)NC1=CC=C(C=C1)O | C16H15N3O
reactant | 4-(2-chloropyridin-3-yl)pyrimidin-2-amine | 0.45 mmol, 0.09 g | ClC1=NC=CC=C1C1=NC(=NC=C1)N | C9H7ClN4
reactant | cesium carbonate | 0.91 mmol, 0.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.2 M, 2.26 ml | CS(=O)C | C2H6OS
product | 4-(2-(4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CC=1C(=NN(C1)C1=CC=CC=C1)NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)N)C=C1 | C25H21N7O
